US07893160B2
A) Synthesis of diphenylbenzocyclobutaneamine
To a 500 ml, 3-neck round bottom flask equipped with a mechanical stirrer, nitrogen inlet, and reflux condenser (with nitrogen outlet), palladium (I) acetate (196 mg, 1.20 mmol) and tri(o-tolyl)phosphine (731 mg, 2.40 mmol) are added to 100 ml toluene. The mixture is stirred at room temperature under nitrogen until the palladium catalyst dissolves and the solution turns yellow. Diphenyl amine (20.0 g, 118 mmol), bromo benzocyclobutane (23.8 g, 130 mmol) and 400 ml toluene are added, followed by sodium t-butoxide (22.8 g, 237 mmol). Upon addition of the sodium t-butoxide the reaction turns black. The reaction is heated to reflux under nitrogen for 22 hours. The reaction is quenched by addition of 30 ml of aqueous 1 M HCl. The toluene layer is washed with 2M Na2CO3 (100 ml) then the toluene solution is passed through basic alumina. Evaporation of the toluene gives a yellow oil. The product is precipitated by stirring the oil with isopropanol. The solids are collected and recrystallized from hot isopropanol. 1H NMR (CDCl3-d) δ: 7.3-6.8 (m, 13H, Ar), 3.12 (d, 4K, —CH2CH2—).

reactant | tri(o-tolyl)phosphine | 2.40 mmol, 731 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Diphenyl amine | 118 mmol, 20.0 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | bromo benzocyclobutane | 130 mmol, 23.8 g | BrC1CC2=C1C=CC=C2 | C8H7Br
reactant | sodium t-butoxide | 237 mmol, 22.8 g | CC(C)([O-])C.[Na+]
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium | [Pd] | Pd
catalyst | palladium (I) acetate | 1.20 mmol, 196 mg | C(C)(=O)[O-].[Pd+]
product | diphenylbenzocyclobutaneamine | C1(=CC=CC=C1)C1(C(C2=C1C=CC=C2)N)C2=CC=CC=C2 | C20H17N
